US05114955
4-(4-Trifluoromethylbenzyloxy)-2-picoline-N-oxide
11.2 g (100 mmol) of potassium tert.-butoxide are added under an N2 atmosphere at 25° C. to 25 ml (183 mmol) of 4-trifluoromethylbenzyl alcohol. 7.2 g (50 mmol) of 4-chloro-2-picoline-N-oxide are subsequently added dropwise, then 10 ml of tert.-butanol are added, and the mixture is stirred for 1 hour at 25° C. and for 30 minutes at 75°-80° C. Water is then added and the mixture is extracted three times using dichloromethane, the extracts are dried and concentrated, and the residue is chromatographed on silica gel using dichloromethane/methanol. The product is obtained from the corresponding fractions, m.p. 113°-115° C.

reactant | potassium tert.-butoxide | 100 mmol, 11.2 g | CC(C)([O-])C.[K+]
reactant | 4-trifluoromethylbenzyl alcohol | 183 mmol | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
reactant | 4-chloro-2-picoline-N-oxide | 50 mmol, 7.2 g | ClC=1C=C([N+](=CC1)[O-])C | C6H6ClNO
reactant | tert.-butanol | 10 ml | C(C)(C)(C)O | C4H10O
solvent | Water | O | H2O
product | 4-(4-Trifluoromethylbenzyloxy)-2-picoline-N-oxide | FC(C1=CC=C(COC=2C=C([N+](=CC2)[O-])C)C=C1)(F)F | C14H12F3NO2
